US05679689
A. Ethyl 8-benzyl-8-azabicyclo[4.3.0]non-3-ene-1-carboxylate (ethyl 2-benzyl-1,2,3,4,7,7a-hexahydro-isoindole-3a-carboxylate)
231 g (1 mol) of ethyl 1-benzyl-2,5-dihydropyrrole-3-carboxylate and 10 g of 4-tert-butylpyrocatechol are dissolved in 1500 ml of toluene, 20 bar of nitrogen are injected and 350 g of 1,3-betadiene are then blown into the autoclave. The mixture is heated at 120° C. for three days and cooled, the pressure is released, and the solution is concentrated and distilled. Yield: 264.9 g (87.6% of theory), boiling point: 127°-140° C./0.1 mbar. The product is 94% pure according to gas-chromatographic detemination.

reactant | ethyl 1-benzyl-2,5-dihydropyrrole-3-carboxylate | 1 mol, 231 g | C(C1=CC=CC=C1)N1CC(=CC1)C(=O)OCC | C14H17NO2
reactant | 4-tert-butylpyrocatechol | 10 g | C(C)(C)(C)C=1C=C(C(O)=CC1)O | C10H14O2
reactant | toluene | 1500 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 8-benzyl-8-azabicyclo[4.3.0]non-3-ene-1-carboxylate (ethyl 2-benzyl-1,2,3,4,7,7a-hexahydro-isoindole-3a-carboxylate) | C(C)C1N(CC2(CC=CCC12)C(=O)O)CC1=CC=CC=C1.C(C1=CC=CC=C1)N1CC2CC=CCC2(C1)C(=O)OCC | 2C18H23NO2
